US04321268
Preparation of o-cyclohexylphenyl nicotinate hydrochloride
15 g (85 mmol) of o-cyclohexylphenol and 16.5 g (93 mmol) of nicotinic acid chloride hydrochloride was mixed with 200 ml of dry pyridine and stirred for 24 hours at 30° C. After cooling precipitated pyridine hydrochloride was sucked off and 300 ml of water added. The precipitated raw product was washed with two 200 ml portions of water, dissolved in alcohol and reduced by means of a rotary evaporator. The remaining viscous oil was dissolved in 500 ml of dry ether and hydrochlorinated with HCl gas. Subsequently, the mixture was filtered, washed with ether and dried.

reactant | o-cyclohexylphenol | 85 mmol, 15 g | C1(CCCCC1)C1=C(C=CC=C1)O | C12H16O
reactant | nicotinic acid chloride hydrochloride | 93 mmol, 16.5 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | o-cyclohexylphenyl nicotinate hydrochloride | Cl.C(C1=CN=CC=C1)(=O)OC1=C(C=CC=C1)C1CCCCC1 | InChI=1S/C18H19NO2.ClH/c20-18(15-9-6-12-19-13-15)21-17-11-5-4-10-16(17)14-7-2-1-3-8-14;/h4-6,9-14H,1-3,7-8H2;1H
